US04590192
Preparation of 6-iodo-3-ethoxy-benzoisothiazole-1,1-dioxide
6-Amino-3-ethoxybenzoisothiazole-1,1-dioxide (D.3b) (0.25 g) was diazotised with sodium nitrite (0.21 g) in conc. sulphuric acid (5 ml) at 0°-10° C. for 2 h. After pouring into an aqueous (50 ml) solution of potassium iodide (1 g), the black suspension was treated with sodium metabisulphite until an orange precipitate remained. The solid was collected, washed with water and dried (0.26 g, mp 185°-90°)

reactant | 6-Amino-3-ethoxybenzoisothiazole-1,1-dioxide | 0.25 g | NC1=CC2=C(C(=NS2(=O)=O)OCC)C=C1 | C9H10N2O3S
reactant | sodium nitrite | 0.21 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | sodium metabisulphite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 6-iodo-3-ethoxy-benzoisothiazole-1,1-dioxide | IC1=CC2=C(C(=NS2(=O)=O)OCC)C=C1 | C9H8INO3S
